Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1].[O:2]=[C:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][C:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-1.89541650858
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2]/[C:3]([H:4])=[C:6](\[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:5],1.71235624849
[H:1][O:2][C:3]([H:4])[C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])=[C:11]([H:12])[H:13]>>[H:13].[H:1][O:2][C:3]([H:4])[C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])=[C:11][H:12],4.95319938475
[C:1]=[C:2]([H:3])[H:4].[C:5]#[C:6][H:7]>>[C:1][C:2]([H:3])([H:4])[C:5]#[C:6][H:7],-2.62671767082
[C:1]#[C:2][C:3]([H:4])[O:5][C:6]([H:7])=[C:8][H:9].[H:10]>>[C:1]#[C:2][C:3]([H:4])[O:5][C:6]([H:7])=[C:8]([H:9])[H:10],-5.14864591487
[C:1].[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]([O:9])([H:10])[H:11]>>[C:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]([O:9])([H:10])[H:11],-5.45203211941
[H:1][C:2]([H:3])[O:4]/[C:5](=[C:6](/[H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:5](=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11])\[C:12]([H:13])([H:14])[H:15].[H:1][C:2]([H:3])=[O:4],1.06257224576
[H:1][C:2][H:3].[O:4]=[C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]([H:3])[O:4][C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-2.11022238946
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11][O:12][H:13]>>[C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11][O:12][H:13].[O:1],4.12096165389
[H:1][C:2]=[C:3]([H:4])[O:5]/[C:6]([H:7])=[C:8](\[H:9])[O:10][H:11]>>[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])=[C:8][H:9].[O:10][H:11],5.96323832086
[C:4][C:5]#[C:6][C:7]([H:8])([H:9])[H:10].[H:1][C:2]=[O:3]>>[H:1][C:2][O:3][C:4][C:5]#[C:6][C:7]([H:8])([H:9])[H:10],-0.13052215729
[C:5]([H:6])[C:7]([H:8])([H:9])[O:10][H:11].[H:1][O:2][C:3]#[C:4]>>[H:1][O:2][C:3]#[C:4][C:5]([H:6])[C:7]([H:8])([H:9])[O:10][H:11],-6.386387135930001
[H:1][C:2]([H:3])[O:4][C:5][H:6].[O:7]=[C:8]=[C:9]([H:10])[H:11]>>[H:1][C:2]([H:3])[O:4][C:5]([H:6])[O:7][C:8]=[C:9]([H:10])[H:11],-0.1175664319119999
[H:1][C:2]([C:3]([H:4])=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15]>>[C:5]([H:6])=[C:13]([H:14])[H:15].[H:1][C:2][C:8]([H:9])([H:10])[C:11](=[C:3]([H:4])[H:7])[H:12],5.96171826045
[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])[C:7]([H:8])([H:9])[C:10][H:11]>>[C:10][H:11].[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])=[C:7]([H:8])[H:9],2.5155768217400003
[C:1]#[C:2][O:3][C:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:10]([H:11])([H:12])[H:13].[C:1]#[C:2][O:3][C:4]([H:5])[C:6]([H:7])([H:8])[H:9],3.5478137742
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]=[C:9]([H:10])[H:11].[O:8]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7](=[O:8])[C:9]([H:10])[H:11],-5.64119616025
[H:1][O:2][C@:3]([H:4])(/[C:5]=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:3]([H:4])(=[C:5]=[C:6]([H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2],2.65103583492
[C:1][C:2]([H:3])([H:4])[O:5][C:6]#[C:8][H:9].[H:7]>>[C:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])=[C:8][H:9],-2.11073975876
[H:1][C:2][O:3][C:4][C:6]([H:7])([H:8])[C:9][O:10][H:11].[H:5]>>[H:1][C:2][O:3][C:4]([H:5])[C:6]([H:7])([H:8])[C:9][O:10][H:11],-4.8821657079400005
[H:1][O:2].[O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-3.12856783068
[H:1][C:2]([H:3])([H:4])[C:5]([C:6]([H:7])([H:8])[H:9])=[C:10]([H:11])[O:12][O:13]>>[H:1][C:2]([H:3])([H:4])[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]1([H:11])[O:12][O:13]1,0.64820147631
[H:1][C:2][C:4]([H:5])([H:6])[C:7]([C:8]([H:9])([H:10])[H:11])([C:12]([H:13])([H:14])[H:15])[C:16]([H:17])([H:18])[H:19].[H:3]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([C:8]([H:9])([H:10])[H:11])([C:12]([H:13])([H:14])[H:15])[C:16]([H:17])([H:18])[H:19],-5.17176935651
[C:8]([H:9])=[C:10]([H:11])[H:12].[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])[H:7]>>[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12],-4.56292710504
[O:1]=[C:2]([C:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12]>>[O:1]([C:2][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12])[C:3][H:4],2.9405636207300003
[C:7]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:1][C:2]([H:3])([H:4])[C:5]#[C:6]>>[H:1][C:2]([H:3])([H:4])[C:5]#[C:6][C:7]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-6.65850427511
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]#[C:8][C:9]([H:10])([H:11])[H:12]>>[H:12].[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]#[C:8][C:9]([H:10])[H:11],4.01826621824
[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:8]([H:9])([H:10])[H:11]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-3.96543698497
